US09260427B2
Prepared using General Procedure 7 and then 4 (S)-2-(4-(tert-butyl)benzamido)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoic acid (90 mg, 0.152 mmol) and (S)-methyl 2-amino-3-(1H-1,2,4-triazol-1-yl)propanoate (25.8 mg, 0.152 mmol) in DMF (2.5 mL) was added TEA (52.8 μl, 0.379 mmol) and then cooled to 0° C. To this mixture was added HATU (57.6 mg, 0.152 mmol) and left at room temperature for 2 h. The reaction mixture was quenched by the addition of 0.1 M Citric acid (aq. 15 mL) and the solid precipitated was allowed to slurry for 30 mins. The solid was filtered, washed with water (10 mL), isohexanes (10 mL) and then dried. Then the solid was dissolved in mixture of THF (4 mL) and MeOH (2 mL). To this solution was added 2M aq. NaOH (380 μL, 0.76 mmol) and the mixture was stirred vigorously at room temperature for 1 h. The reaction mixture was diluted with 0.1 M aq. citric acid (20 mL) and stirred for 1 h. The solid formed was filtered and washed with water (10 mL) and isohexanes (10 mL). The crude product was purified by column chromatography (0-20% MeOH in EA) to afford 12 mg (11%) of 2-((S)-2-(4-(tert-butyl)benzamido)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanamido)-3-(1H-1,2,4-triazol-1-yl)propanoic acid as a white powder. LCMS-ESI (m/z) calculated for C42H49N7O5: 731.9; no m/z observed, tR=9.75 min (Method 10). 1H NMR (400 MHz, DMSO-d6) δ13.21 (s, 1H), 9.20 (s, 2H), 8.70 (d, J=8.1 Hz, 0.5H), 8.60 (dd, J=8.4, 4.6 Hz, 1H), 8.56 (d, J=7.8 Hz, 0.5H), 8.52 (d, J=7.1 Hz, 1H), 8.37-8.34 (m, 2H), 8.01 (d, J=6.9 Hz, 1H), 7.85-7.82 (m, 2H), 7.80-7.78 (m, 2H), 7.56-7.49 (m, 4H), 7.14 (d, J=8.9 Hz, 2H), 4.87-4.74 (m, 2H), 4.71-4.55 (m, 2H), 4.08 (t, J=6.5 Hz, 2H), 3.24-2.97 (m, 2H), 1.82-1.75 (m, 2H), 1.51-1.29 (m, 17H), 0.95-0.91 (m, 3H).

reactant | (S)-2-(4-(tert-butyl)benzamido)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoic acid | 0.152 mmol, 90 mg | C(C)(C)(C)C1=CC=C(C(=O)N[C@H](C(=O)O)CC2=CC=C(C=C2)C2=NC=C(C=N2)C2=CC=C(C=C2)OCCCCCCC)C=C1 | C37H43N3O4
reactant | (S)-methyl 2-amino-3-(1H-1,2,4-triazol-1-yl)propanoate | 0.152 mmol, 25.8 mg | N[C@H](C(=O)OC)CN1N=CN=C1 | C6H10N4O2
reactant | HATU | 0.152 mmol, 57.6 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | NaOH | 0.76 mmol, 2M, 380 μL | [OH-].[Na+]
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | citric acid | 0.1 M, 20 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | 2-((S)-2-(4-(tert-butyl)benzamido)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanamido)-3-(1H-1,2,4-triazol-1-yl)propanoic acid | 12 mg, 11% | C(C)(C)(C)C1=CC=C(C(=O)N[C@H](C(=O)NC(C(=O)O)CN2N=CN=C2)CC2=CC=C(C=C2)C2=NC=C(C=N2)C2=CC=C(C=C2)OCCCCCCC)C=C1 | C42H49N7O5
